US09446034B2
2-[(2,5-Dichloro-4-pyridinyl)amino]benzoic acid
A mixture of 2,5-dichloro-4-iodopyridine (10 g, 36.5 mmol), 2-aminobenzoic acid (4.85 g, 35.4 mmol), DPEPhos [bis(2-diphenylphosphinophenyl)ether] (1.6 g, 2.97 mmol), palladium(II) acetate (160 mg, 0.713 mmol) and K3PO4 (20 g, 94 mmol) was degassed and heated at 120° C. (oil bath temp) for 20 h. After 20 h, LCMS showed there was 33% (relative to the desired product) starting material left. Added another 160 mg of Pd(OAc)2 to the mixture, and heated to 120° C. for another 24 h. LCMS showed conversion complete. The mixture was cooled to room temperature, followed by filtration, and washing with EtOAc. The solids were acidified to pH=7-8, followed by filtration. However, the mixture was a paste, and collected solids could not be dried completely. The solids (11 g) was acidified with 6N HCl to pH=1. The resulting paste was filtered, and washed with water and TBME. The solid was dried under vacuum over P2O5 for 2 days to give the title compound (7.32 g, 60.2% yield). MS: M(C12H8Cl2N2O2)=283.11, (M+H)+=283.8; 1H NMR (400 MHz, DMSO) ppm 13.6 (s, 1 H) 10.2 (s, 1 H) 8.3 (s, 1 H) 8.0 (d, 1 H) 7.6 (q, 2 H) 7.3 (s, 1 H) 7.2 (m, 1 H).

reactant | 2,5-dichloro-4-iodopyridine | 36.5 mmol, 10 g | ClC1=NC=C(C(=C1)I)Cl | C5H2Cl2IN
reactant | 2-aminobenzoic acid | 35.4 mmol, 4.85 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | DPEPhos | 2.97 mmol, 1.6 g | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
reactant | K3PO4 | 94 mmol, 20 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | palladium(II) acetate | 0.713 mmol, 160 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[(2,5-Dichloro-4-pyridinyl)amino]benzoic acid | 7.32 g, 60.2% yield | ClC1=NC=C(C(=C1)NC1=C(C(=O)O)C=CC=C1)Cl | C12H8Cl2N2O2
